US05852016
N-(6,7-Dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(methoxycarbonylmethyl)-methanesulphonamide
Anhydrous potassium carbonate (1.60 g, 11.2 mmol) was added to a suspension of N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-methanesulphonamide (see Preparation 3, 3.0 g, 9.4 mmol) in acetone (70 ml) with stirring. The mixture was heated at reflux for 15 minutes, cooled, and methyl bromoacetate (1.8 ml, 18.7 mmol) was added. The mixture was then heated at reflux for 2 h, cooled, diluted with ethyl acetate (300 ml) and washed with water (2×100 ml). The organic phase was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with hexane/ethyl acetate) to give the title compound as a white solid (3.177 g, 80%).

reactant | potassium carbonate | 11.2 mmol, 1.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-methanesulphonamide | 9.4 mmol, 3.0 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)NS(=O)(=O)C | C11H11Cl2N3O4S
reactant | methyl bromoacetate | 18.7 mmol, 1.8 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-(6,7-Dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(methoxycarbonylmethyl)-methanesulphonamide | 3.177 g, 80% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CC(=O)OC | C14H15Cl2N3O6S
